US05831114
1-(3-Trifluoromethylphenoxy)-2-Butanol (Intermediate)
In a bomb tube (pressurized vessel), 40.5 g of 3-hydroxybenzotrifluoride, 18.0 g of α-butylene oxide and 1.0 g of lithium hydroxide monohydrate are heated for 16 hours at 140° C. After the reaction vessel has cooled, the reaction mixture is dissolved in 200 ml of ethyl acetate, and the organic phase is washed with water and subsequently dried over sodium sulfate. After concentration, the desired product 1-(3-trifluoromethylphenoxy)-2-butanol is obtained in a yield of 54.0 g and in high purity. The product can be employed in the subsequent reaction without further purification.

reactant | 3-hydroxybenzotrifluoride | 40.5 g | OC=1C=C(C=CC1)C(F)(F)F | C7H5F3O
reactant | α-butylene oxide | 18.0 g | CCC1CO1 | C4H8O
reactant | lithium hydroxide monohydrate | 1.0 g | O.[OH-].[Li+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-trifluoromethylphenoxy)-2-butanol | FC(C=1C=C(OCC(CC)O)C=CC1)(F)F | C11H13F3O2
